US04239903
To a suspension of 8.3 g of lithium aluminum hydride and 200 ml of anhydrous tetrahydrofuran, a solution of 14.5 g of N-ethyl-N-[3-(methoxycarbonyl)propionyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine in 100 ml of anhydrous tetrahydrofuran was added dropwise. After heating the resulting solution for 4.5 hours at reflux, a mixed solution of 8.3 ml of water and 50 ml of tetrahydrofuran as added dropwise to the solution under cooling with ice. Then, 8.3 ml of a 15% sodium hydroxide aqueous solution was added dropwise to the resulting solution and lastly 25 ml of water was added dropwise thereto to precipitate insoluble materials. After removing the insoluble materials by filtration, the filtrate was concentrated under reduced pressure to obtain a residue. After the residue was extracted with benzene, the benzene layer was washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure to obtain 10.8 g of N-ethyl-N-(4-hydroxybutyl)-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine as a colorless oily product. This product was treated with an ethanolic solution of hydrogen chloride having a concentration of about 18% to obtain N-ethyl-N-(4-hydroxybutyl)-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine hydrochloride as colorless crystals having a melting point of 124°-126° C.

reactant | lithium aluminum hydride | 8.3 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | N-ethyl-N-[3-(methoxycarbonyl)propionyl]-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | 14.5 g | C(C)N(C(CCC(=O)OC)=O)C1CC2=CC=C(C=C2CC1)OC | C18H25NO4
reactant | water | 8.3 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | water | 25 ml | O | H2O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-ethyl-N-(4-hydroxybutyl)-6-methoxy-1,2,3,4-tetrahydro-2-naphthylamine | 10.8 g | C(C)N(CCCCO)C1CC2=CC=C(C=C2CC1)OC | C17H27NO2
